US06608070B1
2-Bromoacetyl-4-propylpyridine hydrobromide:
The title compound was prepared from 2-acetyl-4-propylpyridine according to the procedure for preparing 2-bromoacetyl-4-methylpyridine hydrobromide described in step 2 of Example 31.

reactant | 2-acetyl-4-propylpyridine | C(C)(=O)C1=NC=CC(=C1)CCC | C10H13NO
reactant | 2-bromoacetyl-4-methylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)C
product | 2-Bromoacetyl-4-propylpyridine hydrobromide | Br.BrCC(=O)C1=NC=CC(=C1)CCC | InChI=1S/C10H12BrNO.BrH/c1-2-3-8-4-5-12-9(6-8)10(13)7-11;/h4-6H,2-3,7H2,1H3;1H
